US04806488
Methyl bromoacetate (10.7 g, 70 mmole), 3-(ethylamino) phenol from above (4.8 g, 35 mmole), and ethyl diisopropyl amine (4.45 g, 35 mmole) were combined in 25 ml of toluene. The mixture was heated at 100° C. for 30 min. and then evaporated under vacuum and chromatographed on a silica gel column using 5% (v/v) methanol/methylene chloride. The combined fractions were washed with saturated sodium bicarbonate and neutralized with 0.1N HCL. The combined fractions were dried over Na2SO4 and evaporated to give 7.24 g of N-ethyl-N-3-hydroxyphenyl glycine methyl ester.

reactant | Methyl bromoacetate | 70 mmole, 10.7 g | BrCC(=O)OC | C3H5BrO2
reactant | 3-(ethylamino) phenol | C(C)NC=1C=C(C=CC1)O | C8H11NO
reactant | ethyl diisopropyl amine | 35 mmole, 4.45 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-ethyl-N-3-hydroxyphenyl glycine methyl ester | 7.24 g | COC(CN(C1=CC(=CC=C1)O)CC)=O | C11H15NO3
